US08071774B2
a) 6-Methoxy-6′,7′-dihydro-5′H-spiro[1-benzofuran-3,8′-imidazo[1,5-a]pyridine]
A mixture of 1.9 mmol of 6-methoxy-1′,6′,7′,8a′-tetrahydro-5′H-spiro[1-benzofuran-3,8′-imidazo[1,5-a]pyridine] and 3 g of manganese-dioxide in 50 ml of toluene is heated to reflux for 1.5 hours. The reaction mixture is cooled to room temperature, the solid is removed by filtration over Hyflo and the filtrate is evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 6-methoxy-1′,6′,7′,8a′-tetrahydro-5′H-spiro[1-benzofuran-3,8′-imidazo[1,5-a]pyridine] | 1.9 mmol | COC1=CC2=C(C=C1)C1(C3N(CCC1)C=NC3)CO2 | C15H18N2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese-dioxide | 3 g | [O-2].[O-2].[Mn+4]
product | 6-Methoxy-6′,7′-dihydro-5′H-spiro[1-benzofuran-3,8′-imidazo[1,5-a]pyridine] | COC1=CC2=C(C=C1)C1(C=3N(CCC1)C=NC3)CO2 | C15H16N2O2
